US07144896B2
1-{2-Fluoro-5-[6-(1-methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-benzyl}-3-isopropyl-1-(4-methanesulfonyl-phenyl)-urea
Prepared in two steps according to the procedures described in EXAMPLE 41 but using the {2-fluoro-5-[6-(1-methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-benzyl}-(4-methanesulfonyl-phenyl)-amine from present Step 4 as the starting material. Flash chromatography (CH2Cl2:MeOH; 96:4) afforded the compound as a foam.

reactant | {2-fluoro-5-[6-(1-methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-benzyl}-(4-methanesulfonyl-phenyl)-amine | FC1=C(CNC2=CC=C(C=C2)S(=O)(=O)C)C=C(C=C1)C=1C=C(C=C2C=CC=NC12)C(C)(C)S(=O)(=O)C | C27H27FN2O4S2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | MeOH | CO | CH4O
product | 1-{2-Fluoro-5-[6-(1-methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-benzyl}-3-isopropyl-1-(4-methanesulfonyl-phenyl)-urea | FC1=C(CN(C(=O)NC(C)C)C2=CC=C(C=C2)S(=O)(=O)C)C=C(C=C1)C=1C=C(C=C2C=CC=NC12)C(C)(C)S(=O)(=O)C | C31H34FN3O5S2
